US06989451B2
3-Methoxy-5-phenylamino-isothiazol-4-carbonitrile
To a solution of 3-hydroxy-5-phenylamino-isothiazol-4-carbonitrile (2.82 g, 13 mmol), triphenylphosphine (4.04 g, 15.6 mmol), methanol (0.53 ml) in THF (25 ml) was added diethyl azadicarboxylate (DEAD, 2.46 ml, 15.6 mmol) at 0° C. The mixture was stirred at ambient temperature and evaporated to give a residue. The crude product was purified on silica gel (hexane/EtOAc, 1:1) to give a yellow powder (1.26 g, 42%).

reactant | 3-hydroxy-5-phenylamino-isothiazol-4-carbonitrile | 13 mmol, 2.82 g | OC1=NSC(=C1C#N)NC1=CC=CC=C1 | C10H7N3OS
reactant | triphenylphosphine | 15.6 mmol, 4.04 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methanol | 0.53 ml | CO | CH4O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 3-Methoxy-5-phenylamino-isothiazol-4-carbonitrile | 1.26 g, 42% | COC1=NSC(=C1C#N)NC1=CC=CC=C1 | C11H9N3OS
